US07888376B2
(S)-N-((S)-1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(trifluoromethyl)phenyl)-2-(4-methylthiazol-2-yl)ethyl)-2-methylpropane-2-sulfinamide (29 mg, 0.058 mmol) in MeOH (1.0 mL) was added HCl (0.5 mL, 2 mmol, 4N solution in dioxane) and the reaction was stirred at room temperature for 0.5 h. The mixture was concentrated, diluted with EtOAc (20 mL), washed with sat. NaHCO3 (20 mL), dried over Na2SO4, filtered and concentrated. The residue was dissolved in DCM (1 mL) and cyclopentyl isocyanate (9 mg, 0.083 mmol) was added followed by two crystals of citric acid. The reaction was stirred overnight, concentrated and purified by Prep TLC (Uniplate, Silica Gel GF, 20×20 cm, 1000 Microns) using Hexane/EtOAc (1/1) to yield (S)-1-(1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(trifluoromethyl)phenyl)-2-(4-methylthiazol-2-yl)ethyl)-3 -cyclopentylurea as a clear oil (10 mg, 70% yield) LCMS: 1.91 min [M+1] 527.2 (2 min gradient, MeOH/H2O 0.1% TFA); HPLC: 3.91 min (4 min gradient, MeOH/H2O 0.2% PPA); Purity 100%; NMR: 400 MHz 1H (CDCl3) 8.29 ppm, 1 H, d, J=2.64 Hz; 7.54 ppm, 1 H, dd, J=8.57, 2.42 Hz; 7.40 ppm, 1 H, s; 7.32 ppm, 1 H, s; 7.26 ppm, 1 H, d, J=9.67 Hz; 7.12 ppm, 2 H, d, J=8.35 Hz; 6.60 ppm, 1 H, s; 4.58 ppm, 1 H, d, J=13.62 Hz; 4.43 ppm, 1 H, d, J=7.03 Hz; 4.08 ppm, 1 H, d, J=13.62 Hz; 3.92 ppm, 1 H, m; 2.20 ppm, 3 H, s; 1.93 ppm, 2 H, m; 1.61 ppm, 2 H, m; 1.53 ppm, 2 H, m; 1.40 ppm, 1 H, m; 1.32 ppm, 1 H, dd, J=13.18, 7.03 Hz.

reactant | (S)-N-((S)-1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(trifluoromethyl)phenyl)-2-(4-methylthiazol-2-yl)ethyl)-2-methylpropane-2-sulfinamide | 0.058 mmol, 29 mg | ClC=1C=CC(=NC1)[C@](CC=1SC=C(N1)C)(C1=CC(=CC(=C1)C(F)(F)F)F)N[S@@](=O)C(C)(C)C | C22H22ClF4N3OS2
reactant | HCl | 2 mmol, 4N, 0.5 mL | Cl | ClH
reactant | cyclopentyl isocyanate | 0.083 mmol, 9 mg | C1(CCCC1)N=C=O | C6H9NO
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | MeOH | 1.0 mL | CO | CH4O
product | (S)-1-(1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(trifluoromethyl)phenyl)-2-(4-methylthiazol-2-yl)ethyl)-3 -cyclopentylurea | 10 mg, 70% yield | ClC=1C=CC(=NC1)[C@](CC=1SC=C(N1)C)(C1=CC(=CC(=C1)C(F)(F)F)F)NC(=O)NC1CCCC1 | C24H23ClF4N4OS
